US07332485B2
N-Benzyloxy-N-{(3S,5R)-3,5-Dimethyl-[N′-(4-Trifluoromethyl-Pyrimidin-2-yl)-Hydrazinocarbonyl]-Cyclohexylmethyl}-Formamide
To a mixture of (3S,5R)-1-[(Benzyloxy-formyl-amino)-methyl]-3,5-dimethyl-cyclohexanecarboxylic acid (0.10 g, 0.31 mmol), 2-hydrazino-4(trifluoromethyl)pyrimidine (0.067 g, 0.37 mmol), NMM (0.095 g, 0.93 mmol) and HOAt (0.05 g, 0.37 mmol) in DMF (1 mL) at room temperature was added 1-[3-(dimethylamino)-propyl]-3-ethylcarbodiimide hydrochloride (0.072 g, 0.37 mmol). After stirring at room temperature 18 h, the reaction mixture was then purified by preparative, reverse-phase HPLC to afford the title compound as a white solid (0.10 g, 71%). MH+480.

reactant | (3S,5R)-1-[(Benzyloxy-formyl-amino)-methyl]-3,5-dimethyl-cyclohexanecarboxylic acid | 0.31 mmol, 0.10 g | C(C1=CC=CC=C1)ON(C=O)CC1(C[C@H](C[C@H](C1)C)C)C(=O)O | C18H25NO4
reactant | 2-hydrazino-4(trifluoromethyl)pyrimidine | 0.37 mmol, 0.067 g | N(N)C1=NC=CC(=N1)C(F)(F)F | C5H5F3N4
reactant | NMM | 0.93 mmol, 0.095 g | CN1CCOCC1 | C5H11NO
reactant | HOAt | 0.37 mmol, 0.05 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 1-[3-(dimethylamino)-propyl]-3-ethylcarbodiimide hydrochloride | 0.37 mmol, 0.072 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-Benzyloxy-N-{(3S,5R)-3,5-Dimethyl-[N′-(4-Trifluoromethyl-Pyrimidin-2-yl)-Hydrazinocarbonyl]-Cyclohexylmethyl}-Formamide | 0.10 g, 71% | C(C1=CC=CC=C1)ON(C=O)C(C1C[C@H](C[C@H](C1)C)C)C(=O)NNC1=NC=CC(=N1)C(F)(F)F | C23H28F3N5O3
